US07838499B2
Preparation of (5-bromo-2-chlorophenyl)(4-(3-bromopropyl)phenyl)methanone (Intermediate DD)
To a stirred suspension of 5-bromo-2-chlorobenzoic acid (2.31 g, 9.80 mmol) and oxalyl chloride (1.41 g, 11.11 mmol) in CH2Cl2 (30 mL) was added 0.05 mL of DMF. Once the vigorous evolution of gas ceased, the reaction was stirred overnight and then the volatiles were removed under reduced pressure. The resulting crude 5-bromo-2-chlorobenzoyl chloride was dissolved in dichloromethane (30 mL), and the solution was cooled to 0˜5° C. Then AlCl3 (1.31 g, 9.8 mmol) was added in portions, the mixture was stirred for 30 min, and (3-bromopropyl)benzene (1.50 g, 6.53 mmol) in dichloromethane (4 mL) was added. The reaction solution was warmed to room temperature and stirred for 4 h. The reaction was quenched by pouring into ice water. The suspension was diluted with water and extracted 3× with CH2Cl2. The combined organic extracts were washed 2× with 1N HCl, 1× with water, 2× with 1M NaOH, and 2× with brine, and then dried over Na2SO4. After removal of the volatiles, the crude product was purified by column chromatography (eluent EA:PE=1:20) to obtain intermediate DD (2.4 g) as a light yellow oil. 1H-NMR (CDCl3, 400 MHz): δ 7.68˜7.66 (d, 2H), 7.50˜7.47 (dd, 1H), 7.42 (d, 1H), 7.28˜7.19 (m, 3H), 3.33 (t, J=6.8 Hz, 2H), 2.80 (t, J=7.6 Hz, 2H), 2.17˜2.10 (m, 2H).

reactant | 5-bromo-2-chlorobenzoic acid | 9.80 mmol, 2.31 g | BrC=1C=CC(=C(C(=O)O)C1)Cl | C7H4BrClO2
reactant | oxalyl chloride | 11.11 mmol, 1.41 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | AlCl3 | 9.8 mmol, 1.31 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | (3-bromopropyl)benzene | 6.53 mmol, 1.50 g | BrCCCC1=CC=CC=C1 | C9H11Br
solvent | CH2Cl2 | 30 mL | C(Cl)Cl | CH2Cl2
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
solvent | DMF | 0.05 mL | CN(C)C=O | C3H7NO
product | (5-bromo-2-chlorophenyl)(4-(3-bromopropyl)phenyl)methanone | BrC=1C=CC(=C(C1)C(=O)C1=CC=C(C=C1)CCCBr)Cl | C16H13Br2ClO
